US07989634B2
Step A: (2R)-2-{[(2R)-1-(BOC)pyrrolidine-2-yl]carbonyl}amino-N-{(3S)-3-[cyclohexyl(isobutyryl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide
To a solution of (2R)-2-amino-N-{(3S)-3-[cyclohexyl(isobutyryl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide TFA, prepared in Example 1, (100 mg, 0.188 mmol) in DMF (3 mL) were added DIPEA (66.1 mL, 0.381 mmol), EDC (48.7 mg, 0.252 mmol), HOBT (43.6 mg, 0.322 mmol), and (2R)-N-BOC-proline (40.9 mg, 0.190 mmol). After the reaction mixture was stirred at rt for 12 h, DMF was removed in vacuo, and the residue was diluted with a saturated aqueous NaHCO3 solution and EtOAc. The organic layer was extracted with EtOAc and subsequently washed with a saturated aqueous NaHCO3 solution, water and an aqueous 1N HCl solution. The organic solution was dried over MgSO4 and concentrated in vacuo. The residue was purified by column chomatography (eluent: EtOAc/Hex=2/1) to give the title compound (107 g, 90.8%).

reactant | (2R)-2-amino-N-{(3S)-3-[cyclohexyl(isobutyryl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide TFA | OC(=O)C(F)(F)F.N[C@@H](C(=O)NN1C[C@H](CC1)N(C(C(C)C)=O)C1CCCCC1)CC1=CC=C(C=C1)Cl
reactant | DIPEA | 0.381 mmol, 66.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 0.252 mmol, 48.7 mg
reactant | HOBT | 0.322 mmol, 43.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2R)-N-BOC-proline | 0.190 mmol, 40.9 mg | C(=O)(OC(C)(C)C)N1[C@@H](C(=O)O)CCC1 | C10H17NO4
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (2R)-2-{[(2R)-1-(BOC)pyrrolidine-2-yl]carbonyl}amino-N-{(3S)-3-[cyclohexyl(isobutyryl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide | 107 g, 90.8% | C(=O)(OC(C)(C)C)N1[C@H](CCC1)C(=O)N[C@@H](C(=O)NN1C[C@H](CC1)N(C(C(C)C)=O)C1CCCCC1)CC1=CC=C(C=C1)Cl | C33H50ClN5O5
